US05618839
6-Hydroxy-3,3-dimethyl-indan-1-one (LXVI)
A solution of sodium nitrite (14.8 g, 214 mmol) in 30 mL of water was slowly added to the solution of 6-amino-3,3-dimethyl-indan-1-one (14.0 g, 85.8 mmol) in 30 mL of 48% tetrafluoroboric acid and 30 mL of water at 0°-5° C. After being stirred for 30 min, the mixture was filtered, and the solids were washed with cold 5% tetrafluoroboric acid and dried in vacuum. The solids were then added in several portions into a boiling solution of 50 mL of sulfuric acid in 0.5 liter of water. After refluxing for 1 hour, the solution was cooled to room temperature and extracted with ethyl acetate (100 mL×3). The combined extracts were dried over magnesium sulfate and evaporated. The residue was purified by flash chromatography (EtOAc:hexane=1:10 to 1:2) to give 7.60 g (50% yield) of the title compound as a solid; 1H-NMR (CDCl3) δ1.40 (s, 6H), 2.64 (s, 2H), 7.13 (s, 1H),7.18 (d, J=8.2 Hz, 1H), 7.39 (d, J=8.2 Hz, 1H); MS m/e 177 (MH+).

reactant | sodium nitrite | 214 mmol, 14.8 g | N(=O)[O-].[Na+]
reactant | 6-amino-3,3-dimethyl-indan-1-one | 85.8 mmol, 14.0 g | NC1=CC=C2C(CC(C2=C1)=O)(C)C | C11H13NO
solvent | water | 30 mL | O | H2O
solvent | tetrafluoroboric acid | 30 mL | F[B-](F)(F)F.[H+]
solvent | water | 30 mL | O | H2O
product | 6-Hydroxy-3,3-dimethyl-indan-1-one | 7.60 g, 50% yield | OC1=CC=C2C(CC(C2=C1)=O)(C)C | C11H12O2
